US06403595B1
1-[4-(N-acetimidoylamino)benzyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone Hydrochloride
To a solution of 1-(4-aminobenzyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone hydrochloride (233 mg) in methanol (20 ml) were added ethyl acetimidate hydrochloride (618 mg) and triethylamine (0.836 ml), and the mixture was stirred at room temperature overnight. The solvent was concentrated and purified with CHP20 column chromatography (water:acetonitrile:1 N hydrochloric acid=70:30:1) to give pale yellow amorphous of the title compound (134 mg).

reactant | 1-(4-aminobenzyl)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone hydrochloride | 233 mg | Cl.NC1=CC=C(CN2C(CN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)=O)C=C1
reactant | ethyl acetimidate hydrochloride | 618 mg | Cl.C(C)(OCC)=N
reactant | triethylamine | 0.836 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 1-[4-(N-acetimidoylamino)benzyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone Hydrochloride | 134 mg | Cl.C(C)(=N)NC1=CC=C(CN2C(CN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)=O)C=C1 | InChI=1S/C23H23ClN4O3S.ClH/c1-16(25)26-21-7-2-17(3-8-21)14-27-10-11-28(15-23(27)29)32(30,31)22-9-5-18-12-20(24)6-4-19(18)13-22;/h2-9,12-13H,10-11,14-15H2,1H3,(H2,25,26);1H
